US06037495
Synthesis of 2-(2-hydroxymethylphenyl)-2-hydroxyimino-N-methylacetamide
A mixture of 2-(2-acetoxymethylphenyl)-2-hydroxyiminoacetamide (1.00 g, E/Z≠65/35), a 40% methylamine/methanol solution (2.1 ml) and methanol (6.3 ml) was stirred at 40° C. for 6 hours. After the mixture was cooled by allowing it to stand, the solvent was evaporated under reduced pressure to obtain the crude product (E/Z≠98/2). This crude product was purified by column chromatography on silica gel (ethyl acetate) and crystallized from ethyl acetate-hexane to obtain the title compound as crystals (594 mg, E/Z≠93/7, yield: 67.4%).

reactant | 2-(2-acetoxymethylphenyl)-2-hydroxyiminoacetamide | 1.00 g | C(C)(=O)OCC1=C(C=CC=C1)C(C(=O)N)=NO | C11H12N2O4
reactant | methylamine methanol | 2.1 ml | CN.CO
solvent | methanol | 6.3 ml | CO | CH4O
product | 2-(2-hydroxymethylphenyl)-2-hydroxyimino-N-methylacetamide | 594 mg, yield: 67.4% | OCC1=C(C=CC=C1)C(C(=O)NC)=NO | C10H12N2O3
